US07078405B2
Ethyl bromoacetate (5.4 g) was added to methyl N-(3-bromo-5-methyl-2-pyridyl)(methylsulfanyl)methaneimidothioate, and the mixture was stirred at 60° C. for 4 hours. After cooled to room temperature, triethylamine was added to treat the material, and water was further added thereto. The reaction mixture was extracted with ethyl acetate, dried over anhydrous magnesium sulfate and evaporated. The resulting residue was purified by column chromatography (ethyl acetate:n-hexane=1:9) to give 8-bromo-6-methyl-2-(methylsulfanyl)imidazo[1,2-a]pyridin-3-carboxylic acid ethyl ester (2.4 g) as a white powder.

reactant | Ethyl bromoacetate | 5.4 g | BrCC(=O)OCC | C4H7BrO2
reactant | methyl N-(3-bromo-5-methyl-2-pyridyl)(methylsulfanyl)methaneimidothioate | BrC=1C(=NC=C(C1)C)N=C(SC)SC | C9H11BrN2S2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 8-bromo-6-methyl-2-(methylsulfanyl)imidazo[1,2-a]pyridin-3-carboxylic acid ethyl ester | 2.4 g | C(C)OC(=O)C1=C(N=C2N1C=C(C=C2Br)C)SC | C12H13BrN2O2S
